US08912186B2
By a procedure similar to that of example 1.1, starting from commercial 4-chloro-1,2-phenylenediamine and 3-phenylglutaric anhydride, 4-(5-chloro-2-benzimidazolyl)-3-phenylbutanoic acid•HCl was obtained as light red solid in three steps.

reactant | 4-chloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-phenylglutaric anhydride | C1(=CC=CC=C1)C1CC(=O)OC(C1)=O | C11H10O3
product | 4-(5-chloro-2-benzimidazolyl)-3-phenylbutanoic acid•HCl | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=CC=C2)C=C1.Cl | InChI=1S/C17H15ClN2O2.ClH/c18-13-6-7-14-15(10-13)20-16(19-14)8-12(9-17(21)22)11-4-2-1-3-5-11;/h1-7,10,12H,8-9H2,(H,19,20)(H,21,22);1H
